US08648066B2
To anhydrous ethanol (110 mL) was added sodium metal (1.16 g, 50.4 mmol) and the mixture was stirred until dissolution was complete. To this solution was added thiourea (1.79 g, 23.5 mmol) and ethyl 2,4-dimethyl-3-oxopentanoate (2.89 g, 16.8 mmol). The reaction mixture was stirred at 85° C. for 20 h then cooled and concentrated. The residue was diluted with water, the pH adjusted to 4 with 1 N hydrochloric acid then extracted with ethyl acetate (3×80 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated to provide 6-isopropyl-5-methyl-2-thioxo-2,3-dihydropyrimidin-4(1H)-one (2.40 g, 78% yield) as a tan solid that was used without further purification. C8H12N2OS: 185 (MH+).

reactant | sodium | 50.4 mmol, 1.16 g | [Na] | Na
reactant | thiourea | 23.5 mmol, 1.79 g | NC(=S)N | CH4N2S
reactant | ethyl 2,4-dimethyl-3-oxopentanoate | 16.8 mmol, 2.89 g | CC(C(=O)OCC)C(C(C)C)=O | C9H16O3
solvent | ethanol | 110 mL | C(C)O | C2H6O
product | 6-isopropyl-5-methyl-2-thioxo-2,3-dihydropyrimidin-4(1H)-one | 2.40 g, 78% yield | C(C)(C)C1=C(C(NC(N1)=S)=O)C | C8H12N2OS
